US08314253B2
13.1 [3-(2-Amino-3-methoxy-phenylcarbamoyl)-propyl]-methyl-carbamic acid benzyl ester
To a solution of 1.40 g 4-(benzyloxycarbonyl-methyl-amino)-butyric acid (obtained from 4-(methylamino)butyric acid and benzylchloroformate) in 25 mL THF were added 2.9 mL of DIPEA, 0.97 g of HOBt and 1.38 g EDC. After stirring for 5 min 0.80 g of 3-methoxy-benzene-1,2-diamine were added and the mixture was stirred for 3 h at rt. Sat. aq. NaHCO3 solution was added, the phases were separated and the organic phase was washed with brine. The combined organic phases were dried over MgSO4, and concentrated in vacuo.

reactant | 4-(benzyloxycarbonyl-methyl-amino)-butyric acid | 1.40 g | C(C1=CC=CC=C1)OC(=O)N(CCCC(=O)O)C | C13H17NO4
reactant | DIPEA | 2.9 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBt | 0.97 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 3-methoxy-benzene-1,2-diamine | 0.80 g | COC1=C(C(=CC=C1)N)N | C7H10N2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | EDC | 1.38 g
product | [3-(2-Amino-3-methoxy-phenylcarbamoyl)-propyl]-methyl-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(N(C)CCCC(NC1=C(C(=CC=C1)OC)N)=O)=O | C20H25N3O4
